US08389771B2
4-((3-bromophenyl)ethynyl)heptan-4-ol was coupled with N-allyl-2,2,2-trifluoroacetamide following the procedure described in Example 123 to give (E)-2,2,2-trifluoro-N-(3-(3-(3-hydroxy-3-propylhex-1-ynyl)phenyl)allyl)acetamide as a pale yellow oil. Yield (0.082 g, 10%): 1H NMR (400 MHz, DMSO-d6) δ 9.68 (t, J=5.4 Hz, 1H), 7.42-7.39 (m, 2H), 7.30 (t, J=8.0 Hz, 1H), 7.23 (dt, J=7.6, 1.4 Hz, 1H), 6.51 (d, J=16.0 Hz, 1H), 6.29 (dt, J=16.0, 6.0 Hz, 1H), 5.13 (s, 1H), 3.95 (t, J=5.4 Hz, 2H), 1.60-1.40 (m, 8H), 0.89 (t, J=7.2 Hz, 6H).

reactant | 4-((3-bromophenyl)ethynyl)heptan-4-ol | BrC=1C=C(C=CC1)C#CC(CCC)(CCC)O | C15H19BrO
reactant | N-allyl-2,2,2-trifluoroacetamide | C(C=C)NC(C(F)(F)F)=O | C5H6F3NO
product | (E)-2,2,2-trifluoro-N-(3-(3-(3-hydroxy-3-propylhex-1-ynyl)phenyl)allyl)acetamide | FC(C(=O)NC\C=C\C1=CC(=CC=C1)C#CC(CCC)(CCC)O)(F)F | C20H24F3NO2
